2129-08-01 09:34:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Has been hypertensive through the night. Afebrile. Continues to pass
   blood per rectum. Urine output has been good. Patient complaining of
   some diffuse abdominal discomfort this AM. Hct has dropped from 32 to
   26; was given 1 unit of blood with no change in the Hct. Two additional
   units of PRBCs have been ordered.
   No coagulopathy.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Dementia
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;  gi up
   Celebrex (Oral) (Celecoxib)
   gi upset;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Iodine; Iodine Containing
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-8-1**] 12:00 AM
   Other medications:
   Insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-1**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36
C (96.8
   HR: 56 (52 - 75) bpm
   BP: 145/46(71) {118/46(60) - 165/105(115)} mmHg
   RR: 15 (12 - 30) insp/min
   SpO2: 100%
           Total In:
                                                                    600 mL
                                                                  1,044 mL
   PO:
           TF:
   IVF:
   694 mL
   Blood products:
   350 mL
   Total out:
                                                                      0 mL
                                                                  1,525 mL
   Urine:
   625 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                    600 mL
                                                                   -481 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic), II/VI
   systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : Few, scattered, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended,
   Tender: Diffusely; no guarding or rebound, No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Non -purposeful, No(t) Sedated, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   157 K/uL
   130 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.7 mEq/L
   27 mg/dL
   112 mEq/L
   143 mEq/L
   26.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2129-8-1**]  12:12 AM
                             [**2129-8-1**]  05:19 AM
   WBC
   6.2
   6.8
   Hct
   26.8
   26.8
   Plt
   175
   157
   Cr
   1.1
   1.0
   TropT
   <0.01
   Glucose
   110
   130
   Other labs: PT / PTT / INR:13.4/30.9/1.1, CK / CKMB /
   Troponin-T:105/4/<0.01, ALT / AST:[**10-12**], Alk Phos / T Bili:75/0.5,
   Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ANEMIA
   ====================
   Patient with probably lower GI bleed. Bleeding still probably going on
   given the failure of Hct to bump with transfusion. Additional blood
   products pending. Urine output  good. Hemodynamics stable. No
   coagulopathy. [**Month (only) 51**] need bleeding scan if bleeding continues; would
   arrange for that if no bump to next transfusion or if she becomes
   hemodynamically unstable.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-7-31**] 10:00 PM
   20 Gauge - [**2129-7-31**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-08-02 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - transfused 3 units in AM pRBCs, hct 26.0-->31.2
   - transfused 2 units in afternoon pRBCs, hct 26.0-->38.1
   - per nursing, concern for vaginal bleeding
   - one episode of frank BRBPR last night
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;  gi up
   Celebrex (Oral) (Celecoxib)
   gi upset;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Iodine; Iodine Containing
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-2**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 52 (51 - 72) bpm
   BP: 152/41(71) {95/40(62) - 179/100(111)} mmHg
   RR: 16 (15 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
           Total In:
                                                                  2,564 mL
                                                                    584 mL
   PO:
           TF:
   IVF:
                                                                  1,677 mL
                                                                     71 mL
   Blood products:
                                                                    887 mL
                                                                    513 mL
   Total out:
                                                                  3,055 mL
                                                                    545 mL
   Urine:
                                                                  1,885 mL
                                                                    545 mL
   NG:
   Stool:
                                                                    570 mL
   Drains:
   Balance:
                                                                   -491 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   General: Alert, oriented only to person (baseline), NAD
   Lungs: CTAB, no wheezes, rales, ronchi
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, mild diffuse tenderness, non-distended, BS+ , no rebound
   tenderness or guarding
   Ext: Warm, well perfused, 2+ pulses, no edema
   Pelvic: Blood with clots seen on pelvic exam, cervix/vaginal cuff not
   visualized or palpated on bimanual exam
   Labs / Radiology
   128 K/uL
   13.3 g/dL
   104 mg/dL
   1.1 mg/dL
   16 mEq/L
   4.9 mEq/L
   31 mg/dL
   112 mEq/L
   141 mEq/L
   38.1 %
   17.5 K/uL
        [image002.jpg]
                             [**2129-8-1**]  12:12 AM
                             [**2129-8-1**]  05:19 AM
                             [**2129-8-1**]  10:21 AM
                             [**2129-8-1**]  02:39 PM
                             [**2129-8-1**]  06:02 PM
                             [**2129-8-2**]  01:36 AM
                             [**2129-8-2**]  04:07 AM
   WBC
   6.2
   6.8
   17.5
   Hct
   26.8
   26.8
   34.4
   31.2
   26.0
   28.1
   38.1
   Plt
   175
   157
   128
   Cr
   1.1
   1.0
   1.1
   TropT
   <0.01
   Glucose
   110
   130
   104
   Other labs: PT / PTT / INR:13.4/30.9/1.1, CK / CKMB /
   Troponin-T:105/4/<0.01, ALT / AST:[**10-12**], Alk Phos / T Bili:75/0.5,
   Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   .
   Urine cx: Klebsiella
   Assessment and Plan
   79 y/o F with PMHx of CAD s/p CABG, DM, Dementia and HTN who presents
   with BRBPR and hct drop from 32 to 26.
   .
   # BRBPR: Pt with known diverticulosis seen on colonoscopy performed in
   [**2120**] who is presenting with painless BRBPR. Differential for Lower GI
   bleed includes AVMs, Colon Ca and hemorrhoidal bleed although this
   presentation most likely c/w diverticulosis. Currently HD stable though
   approximately [**3-27**] bloody BMs today and hct from 32 to 26 since
   admission.
   - NPO with gentle IVF at 75cc/hr
   - transfuse with goal hct of 30 given acute drop
   - 2 large PIV
   - GI will scope tomorrow in the unit if she is still dropping her hct
   today with rapid prep in [**3-27**] hours
   - maintain active T&S
   - monitor urine output
   - f/u hct q 6hrs
   .
   # UTI: GNR in urine cx, speciation pending.  On Cipro.
   -continue Cipro for 3 days (today is day 2), uncomplicated UTI
   .
   #. Leukocytosis: WBC bump today of unclear etiology.  Remains afebrile
   and complains of diffuse abdominal pain but exam not impressive for
   acute abdomen or any cause of pain.  UTI being appropriately treated
   with Cipro.  Sending blood cultures.
   -f/u blood cx
   -low threshold for abdominal CT if pain worsens
   .
   # Vaginal bleeding:  Nursing concerned about vaginal bleeding.  Pelvic
   exam done this afternoon found blood with some clots in vaginal vault.
   Cervix/vaginal cuff not visualized or palpated on bimanual.  Patient
   has h/o TAH (fibroids) and unilateral oophrectomy.   Will consult gyn
   for better pelvic exam and help with workup.  Question if this is [**1-24**]
   fistula.
   -f/u gyn recs
   .
   # CAD s/p CABG: Pt with known CAD s/p remote CABG now with GI bleed.
   Pt denying any chest pain and EKGs at baseline, will continue to
   monitor for symptoms.
   - holding ASA & plavix given active lower GI bleed
   - holding Losartan, Imdur given bleed
   - holding statin as NPO for now
   .
   # DM: holding pioglitazone while NPO
   - HISS and QIDACHS BS checks
   .
   # HTN: holding many home meds given active GI bleed
   - metoprolol 25mg [**Hospital1 7**]
   .
   #  Dementia: continue home Aricept 10mg qhs
   - holding Namenda as non-form
   - try to maintain sleep/wake cycles
   - avoid sedating meds
   .
   # Glaucoma: continue home eye drop regimen
   .
   # FEN: Dry on exam with signs of orthostatic changes, will give LR
   rehydration with goal +2 L today, advanced diet to diabetic clears
   - replete electrolytes aggressively
   .
   # Prophylaxis: pneumoboots, PPI home regimen
   .
   # Access: 2 PIV
   .
   # Code: full confirmed with HCP
   .
   # Communication: Pt and daughters
   .
   # Disposition: pending above
   ICU Care
   Nutrition: clears (DM)
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2129-7-31**] 10:00 PM
   22 Gauge - [**2129-8-1**] 04:00 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer:  PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU for now

2129-08-02 12:11:00 Physician Attending Progress Note
Chief Complaint: GI bleed, bradycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had additional blood per rectum (bloody bowel movements) during
   the day. Required 2 units of PRBCs with good increase in Hct
   Was hemodynamically throughout.
   Urine culture growing gram negative rods.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;  gi up
   Celebrex (Oral) (Celecoxib)
   gi upset;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Iodine; Iodine Containing
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-2**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 56 (51 - 78) bpm
   BP: 156/46(74) {95/40(62) - 184/100(111)} mmHg
   RR: 18 (13 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                  2,564 mL
                                                                    631 mL
   PO:
           TF:
   IVF:
                                                                  1,677 mL
                                                                    118 mL
   Blood products:
                                                                    887 mL
                                                                    513 mL
   Total out:
                                                                  3,055 mL
                                                                    795 mL
   Urine:
                                                                  1,885 mL
                                                                    795 mL
   NG:
   Stool:
                                                                    570 mL
   Drains:
   Balance:
                                                                   -491 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, orthostatic
   by pulse 75 to 100 with sitting up
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base radiating to neck bilaterally
   right greater than left
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   13.3 g/dL
   128 K/uL
   104 mg/dL
   1.1 mg/dL
   16 mEq/L
   4.9 mEq/L
   31 mg/dL
   112 mEq/L
   141 mEq/L
   32.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2129-8-1**]  12:12 AM
                             [**2129-8-1**]  05:19 AM
                             [**2129-8-1**]  10:21 AM
                             [**2129-8-1**]  02:39 PM
                             [**2129-8-1**]  06:02 PM
                             [**2129-8-2**]  01:36 AM
                             [**2129-8-2**]  04:07 AM
                             [**2129-8-2**]  07:56 AM
   WBC
   6.2
   6.8
   17.5
   Hct
   26.8
   26.8
   34.4
   31.2
   26.0
   28.1
   38.1
   32.3
   Plt
   175
   157
   128
   Cr
   1.1
   1.0
   1.1
   TropT
   <0.01
   Glucose
   110
   130
   104
   Other labs: PT / PTT / INR:13.4/30.9/1.1, CK / CKMB /
   Troponin-T:105/4/<0.01, ALT / AST:[**10-12**], Alk Phos / T Bili:75/0.5,
   Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   UTI
   ================
   Patient is orthostatic by pulse on rounds today. Will give fluids to
   replace about half of the volume deficit (total deficit nearing 4L).
   Continue to monitor hct. GI to do colonoscopy tomorrow.
   Treatment started for UTI.
   Serum bicarbonate is down with borderline gap. Would give fluids as
   Ringers Lactate so as not to exacerbate her acidosis.
   WBC up but hct was unusually high as well. Repeat. If persistently
   elevated, with ongonig abdominal pain, may need CT of abdomen for
   abscess.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2129-7-31**] 10:00 PM
   22 Gauge - [**2129-8-1**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2129-08-03 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Pt is 65kg--> TBW= 0.6(65kg) = 39kg TBW; if orthostatic, has lost
   10%--> ~4L down --> gently rehydrate (including Hct)
   -GI rec: no indication for scoping right now given lower GI bleed; if
   hemodynamically instability - RBC scan (Call IR/Nuclear medicine), call
   surgery
   -Per OB/GYN - vaginal mucosa does not demonstrate much atrophy - no
   indication for Estring. This is most likely recto-vaginal fistula and
   Vaginal bleeding should resolve with resolution of diverticulosis.
   Consider a CT abd/pel with contrast or a Barium enema to make
   definitive dx (not ordered).
   -Hct stable overnight; no RBC transfusions
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;  gi up
   Celebrex (Oral) (Celecoxib)
   gi upset;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Iodine; Iodine Containing
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-3**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 59 (50 - 80) bpm
   BP: 166/65(91) {116/40(59) - 188/133(137)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                  1,771 mL
                                                                    712 mL
   PO:
             TF:
   IVF:
                                                                  1,258 mL
                                                                    712 mL
   Blood products:
                                                                    513 mL
   Total out:
                                                                  2,235 mL
                                                                    480 mL
   Urine:
                                                                  2,235 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -464 mL
                                                                    232 mL
   Respiratory support
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General: Alert, oriented only to person (baseline), NAD
   Lungs: CTAB, no wheezes, rales, ronchi
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, mild diffuse tenderness, non-distended, BS+ , no rebound
   tenderness or guarding
   Ext: Warm, well perfused, 2+ pulses, no edema
   Labs / Radiology
   117 K/uL
   9.5 g/dL
   93 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.9 mEq/L
   21 mg/dL
   110 mEq/L
   139 mEq/L
   27.8 %
   10.5 K/uL
        [image002.jpg]
                             [**2129-8-1**]  10:21 AM
                             [**2129-8-1**]  02:39 PM
                             [**2129-8-1**]  06:02 PM
                             [**2129-8-2**]  01:36 AM
                             [**2129-8-2**]  04:07 AM
                             [**2129-8-2**]  07:56 AM
                             [**2129-8-2**]  02:00 PM
                             [**2129-8-2**]  07:00 PM
                             [**2129-8-2**]  11:32 PM
                             [**2129-8-3**]  04:32 AM
   WBC
   17.5
   13.2
   10.5
   Hct
   34.4
   31.2
   26.0
   28.1
   38.1
   32.3
   32.2
   29.3
   28.2
   27.8
   Plt
   128
   117
   Cr
   1.1
   1.1
   Glucose
   104
   93
   Other labs: PT / PTT / INR:12.8/27.4/1.1, CK / CKMB /
   Troponin-T:105/4/<0.01, ALT / AST:[**10-12**], Alk Phos / T Bili:75/0.5,
   Differential-Neuts:79.0 %, Lymph:14.3 %, Mono:5.4 %, Eos:0.9 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   .
   KUB: No evidence of ileus or obstruction.
Urine cx: pan-[**Last Name (un) 270**] KLEBSIELLA OXYTOCA
   Assessment and Plan
   79 y/o F with PMHx of CAD s/p CABG, DM, Dementia and HTN who presents
   with BRBPR and hct drop from 32 to 26.
   .
   # BRBPR: Pt with known diverticulosis seen on colonoscopy performed in
   [**2120**] who is presenting with painless BRBPR. Differential for Lower GI
   bleed includes AVMs, Colon Ca and hemorrhoidal bleed although this
   presentation most likely c/w diverticulosis. Currently HD stable though
   approximately [**3-27**] bloody BMs today and hct from 32 to 26 since
   admission.
   - NPO with gentle IVF at 75cc/hr
   - transfuse with goal hct of 30 given acute drop
   - 2 large PIV
   - GI will scope tomorrow in the unit if she is still dropping her hct
   today with rapid prep in [**3-27**] hours
   - maintain active T&S
   - monitor urine output
   - f/u hct q 6hrs
   .
   # UTI: GNR in urine cx, speciation pending.  On Cipro.
   -continue Cipro for 3 days (today is day 2), uncomplicated UTI
   .
   #. Leukocytosis: WBC bump today of unclear etiology.  Remains afebrile
   and complains of diffuse abdominal pain but exam not impressive for
   acute abdomen or any cause of pain.  UTI being appropriately treated
   with Cipro.  Sending blood cultures.
   -f/u blood cx
   -low threshold for abdominal CT if pain worsens
   .
   # Vaginal bleeding:  Nursing concerned about vaginal bleeding.  Pelvic
   exam done this afternoon found blood with some clots in vaginal vault.
   Cervix/vaginal cuff not visualized or palpated on bimanual.  Patient
   has h/o TAH (fibroids) and unilateral oophrectomy.   Will consult gyn
   for better pelvic exam and help with workup.  Question if this is [**1-24**]
   fistula.
   -f/u gyn recs
   .
   # CAD s/p CABG: Pt with known CAD s/p remote CABG now with GI bleed.
   Pt denying any chest pain and EKGs at baseline, will continue to
   monitor for symptoms.
   - holding ASA & plavix given active lower GI bleed
   - holding Losartan, Imdur given bleed
   - holding statin as NPO for now
   .
   # DM: holding pioglitazone while NPO
   - HISS and QIDACHS BS checks
   .
   # HTN: holding many home meds given active GI bleed
   - metoprolol 25mg [**Hospital1 7**]
   .
   #  Dementia: continue home Aricept 10mg qhs
   - holding Namenda as non-form
   - try to maintain sleep/wake cycles
   - avoid sedating meds
   .
   # Glaucoma: continue home eye drop regimen
   .
   # FEN: Dry on exam with signs of orthostatic changes, will give LR
   rehydration with goal +2 L today, advanced diet to diabetic clears
   - replete electrolytes aggressively
   .
   # Prophylaxis: pneumoboots, PPI home regimen
   .
   # Access: 2 PIV
   .
   # Code: full confirmed with HCP
   .
   # Communication: Pt and daughters
   .
   # Disposition: pending above
   ICU Care
   Nutrition: clears (DM)
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2129-7-31**] 10:00 PM
   22 Gauge - [**2129-8-1**] 04:00 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer:  PPI
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU for now

2129-08-03 11:39:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct stable. Hemodynamically stable, but passed bright red blood per
   rectum this AM.
   With blood in vagina, concern about rectal-vaginanl fistula.
   24 Hour Events:
                                  History obtained from [**Hospital 15**] Medical records
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;  gi up
   Celebrex (Oral) (Celecoxib)
   gi upset;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Iodine; Iodine Containing
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   protonix
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-3**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 60 (50 - 95) bpm
   BP: 161/62(85) {116/40(59) - 188/133(137)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,771 mL
                                                                    870 mL
   PO:
             TF:
   IVF:
                                                                  1,258 mL
                                                                    870 mL
   Blood products:
                                                                    513 mL
   Total out:
                                                                  2,235 mL
                                                                  1,480 mL
   Urine:
                                                                  2,235 mL
                                                                  1,480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -464 mL
                                                                   -610 mL
   Respiratory support
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Paralyzed,
   Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   117 K/uL
   93 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.9 mEq/L
   21 mg/dL
   110 mEq/L
   139 mEq/L
   27.8 %
   10.5 K/uL
        [image002.jpg]
                             [**2129-8-1**]  10:21 AM
                             [**2129-8-1**]  02:39 PM
                             [**2129-8-1**]  06:02 PM
                             [**2129-8-2**]  01:36 AM
                             [**2129-8-2**]  04:07 AM
                             [**2129-8-2**]  07:56 AM
                             [**2129-8-2**]  02:00 PM
                             [**2129-8-2**]  07:00 PM
                             [**2129-8-2**]  11:32 PM
                             [**2129-8-3**]  04:32 AM
   WBC
   17.5
   13.2
   10.5
   Hct
   34.4
   31.2
   26.0
   28.1
   38.1
   32.3
   32.2
   29.3
   28.2
   27.8
   Plt
   128
   117
   Cr
   1.1
   1.1
   Glucose
   104
   93
   Other labs: PT / PTT / INR:12.8/27.4/1.1, CK / CKMB /
   Troponin-T:105/4/<0.01, ALT / AST:[**10-12**], Alk Phos / T Bili:75/0.5,
   Differential-Neuts:79.0 %, Lymph:14.3 %, Mono:5.4 %, Eos:0.9 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ===============
   Patient passed bright red blood per rectum this morning. Remains
   hemodynamically stable but on a beta blocker. Will try to get bleeding
   scan. Consult surgery as well. Blood and stool noted in the vagina
   consistent with fistula. Following hct.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2129-8-1**] 04:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill

2129-08-04 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - GI: flex sig showed diverticuli but no fresh blood, insufflation
   showed no evidence of fistula
   - received 1 U pRBCs for hct 27
 33.7
   - 500cc LR bolus this AM because looked a little dry and trouble
   getting second [**Name (NI) 3173**] (pt pulled last night)
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;  gi up
   Celebrex (Oral) (Celecoxib)
   gi upset;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Iodine; Iodine Containing
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-8-4**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-4**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 58 (45 - 95) bpm
   BP: 170/46(79) {126/45(55) - 210/85(111)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
           Total In:
                                                                    966 mL
                                                                    656 mL
   PO:
           TF:
   IVF:
                                                                    966 mL
                                                                    306 mL
   Blood products:
   350 mL
   Total out:
                                                                  2,230 mL
                                                                    430 mL
   Urine:
                                                                  2,230 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,264 mL
                                                                    226 mL
   Respiratory support
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented only to person (baseline), NAD
   Lungs: CTAB, no wheezes, rales, ronchi
   CV: RRR, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, mild diffuse tenderness, non-distended, BS+ , no rebound
   tenderness or guarding
   Ext: Warm, well perfused, 2+ pulses, no edema
   Labs / Radiology
   131 K/uL
   11.0 g/dL
   103 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   15 mg/dL
   107 mEq/L
   144 mEq/L
   33.7 %
   10.0 K/uL
        [image002.jpg]
                             [**2129-8-2**]  04:07 AM
                             [**2129-8-2**]  07:56 AM
                             [**2129-8-2**]  02:00 PM
                             [**2129-8-2**]  07:00 PM
                             [**2129-8-2**]  11:32 PM
                             [**2129-8-3**]  04:32 AM
                             [**2129-8-3**]  11:02 AM
                             [**2129-8-3**]  04:29 PM
                             [**2129-8-3**]  11:02 PM
                             [**2129-8-4**]  04:36 AM
   WBC
   17.5
   13.2
   10.5
   10.0
   Hct
   38.1
   32.3
   32.2
   29.3
   28.2
   27.8
   33.0
   32.1
   27.0
   33.7
   Plt
   128
   117
   131
   Cr
   1.1
   1.1
   1.2
   Glucose
   104
   93
   103
   Other labs: PT / PTT / INR:11.8/25.6/1.0, CK / CKMB /
   Troponin-T:105/4/<0.01, ALT / AST:[**10-12**], Alk Phos / T Bili:75/0.5,
   Differential-Neuts:79.0 %, Lymph:14.3 %, Mono:5.4 %, Eos:0.9 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   BCx - pending
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   79 y/o F with PMHx of CAD s/p CABG, DM, Dementia and HTN who presents
   with BRBPR and hct drop from 32 to 26.
   .
   # BRBPR: s/p total of 6 units of PRBCs for bleeding since admission.
   Patient has known diverticulosis seen on colonoscopy.  Had another GI
   bleed yesterday.  Transfused one unit pRBCs for improvement of hct from
   27
 33.7.  Flex sig performed by GI again showed diverticuli but no
   fresh blood.  Insufflation done during flex sig showed no evidence of
   fistula.  No evidence of AVM were found.  Other differentials for Lower
   GI bleed includes AVMs, Colon Ca and hemorrhoidal bleed although this
   presentation most likely c/w diverticulosis.
   - transfuse for goal hct > 30
   - placed another 22 gauge IV
   - maintain active T&S
   - f/u hct q 8hrs
   .
   #. Leukocytosis: WBC 10.0 today.  White count bump of unclear etiology,
   but pt remains afebrile.  Complains of some diffuse abdominal pain
   especially in LLQ, but no guarding or rebound.  Asymptomatic UTI
   treated with 3 day course of cipro.
   -f/u blood cx
   .
   # Vaginal bleeding:  Gyn consulted and vaginal mucosa does not
   demonstrate much atrophy - no indication for Estring.  Believe this is
   likely [**1-24**] fistula although no evidence of fistula found on flex sig.
   Patient has h/o TAH (fibroids) and unilateral oophrectomy.   Had
   initially planned for CT scan to evaluate, but as per radiology, would
   not offer much better sensitivity than the flex sig
   - f/u hct q8hrs
   .
   # UTI: Klesbiella oxytoca sensitive to Cipro.
   -          finished 3 day course of cipro for uncomplicated UTI
   -          d/c cipro
   .
   # CAD s/p CABG: Pt with known CAD s/p remote CABG now with GI bleed.
   Pt denying any chest pain and EKGs at baseline, will continue to
   monitor for symptoms.
   - holding ASA & plavix given active lower GI bleed
   - restart Imdur
   - restart statin
   .
   # DM: holding pioglitazone while
   - HISS and QIDACHS BS checks
   .
   # HTN: holding many home meds given active GI bleed. Not worried about
   SBPs in 160s for fear of hypotension if better controlled and more
   bleeding.
   - continue metoprolol 25mg [**Hospital1 7**]
   - increase losartan back to home dose of 100mg [**Hospital1 7**]
   .
   #  Dementia: continue home Aricept 10mg qhs
   - holding Namenda as non-form
   - try to maintain sleep/wake cycles
   - avoid sedating meds
   .
   # Glaucoma: continue home eye drop regimen
   .
   # FEN: lactate ringer boluses, regular diabetic, cardiac diet
   - replete electrolytes aggressively  as needed
   .
   # Prophylaxis: pneumoboots, PPI home regimen
   - patient is refusing pneumoboots, ambulate instead for DVT prophylaxis
   .
   # Access: 2 [**Hospital1 3173**]
   .
   # Code: full confirmed with HCP
   .
   # Communication: Pt and daughters
   .
   # Disposition: call out
   ICU Care
   Nutrition: regular diabetic, cardiac
   Glycemic Control:
   Lines:
   22 Gauge - [**2129-8-1**] 09:41 AM
   22 Gauge
 [**2129-8-4**]
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: daughters
   [**Name (NI) 36**] status: full code
   Disposition: call out

2129-08-04 11:20:00 Physician Attending Progress Note
Chief Complaint: GI bleed, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Flex sigmoidoscopy yesterday confirmed diverticuli. No fistual
   documented.
   Transfused 1 unit of PRBCs yesterday. Blood pressure stable.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Vioxx (Oral) (Rofecoxib)
   Unknown;  gi up
   Celebrex (Oral) (Celecoxib)
   gi upset;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Iodine; Iodine Containing
   Unknown; Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-8-4**] 12:11 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-8-4**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 59 (45 - 70) bpm
   BP: 146/52(77) {126/45(55) - 210/85(100)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 65.1 kg (admission): 95 kg
   Height: 64 Inch
           Total In:
                                                                    966 mL
                                                                  1,121 mL
   PO:
           240 mL
   TF:
   IVF:
                                                                    966 mL
                                                                    531 mL
   Blood products:
   350 mL
   Total out:
                                                                  2,230 mL
                                                                  1,060 mL
   Urine:
                                                                  2,230 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,264 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), II/VI systolic murmur at base going to the neck
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Scattered coarse rales,
   No(t) Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent :
   , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   131 K/uL
   103 mg/dL
   1.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   15 mg/dL
   107 mEq/L
   144 mEq/L
   33.7 %
   10.0 K/uL
        [image002.jpg]
                             [**2129-8-2**]  04:07 AM
                             [**2129-8-2**]  07:56 AM
                             [**2129-8-2**]  02:00 PM
                             [**2129-8-2**]  07:00 PM
                             [**2129-8-2**]  11:32 PM
                             [**2129-8-3**]  04:32 AM
                             [**2129-8-3**]  11:02 AM
                             [**2129-8-3**]  04:29 PM
                             [**2129-8-3**]  11:02 PM
                             [**2129-8-4**]  04:36 AM
   WBC
   17.5
   13.2
   10.5
   10.0
   Hct
   38.1
   32.3
   32.2
   29.3
   28.2
   27.8
   33.0
   32.1
   27.0
   33.7
   Plt
   128
   117
   131
   Cr
   1.1
   1.1
   1.2
   Glucose
   104
   93
   103
   Other labs: PT / PTT / INR:11.8/25.6/1.0, CK / CKMB /
   Troponin-T:105/4/<0.01, ALT / AST:[**10-12**], Alk Phos / T Bili:75/0.5,
   Differential-Neuts:79.0 %, Lymph:14.3 %, Mono:5.4 %, Eos:0.9 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 .H/O GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED,
   GIB)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ANEMIA
   =================
   Hct responded well to transfusion yesterday. Patient hemodynamically
   stable.
   Few scattered rales on exam but oxygen saturation good without
   supplemental oxygen.
   Has completed a course of antibiotics for UTI.
   ICU Care
   Nutrition: Clear liqs
   Glycemic Control:
   Lines:
   22 Gauge - [**2129-8-4**] 09:00 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: Not applicable.
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes